US05874179
3,6-Dibenzoyl-9-methylcarbazole (4):
67.0 g (0.37 mol) of 9-methylcarbazole were dissolved in 400 ml of dry dichloroethane, to which 105.0 g (0.79 mol) of AlCl3 were added. 104.0 g (0.74 mol) of benzoyl chloride were added dropwise with stirring and cooling with ice. Stirring was continued for another 3 hours at room temperature, and the reaction mixture was then decomposed with ice and hydrochloric acid and the organic phase was washed to neutrality with water and NaHCO3 solution. The remaining water was removed by azeotropic distillation. The dichloroethane solution was concentrated, whereupon the diketone crystallized out. It was recrystallized once more from dichloroethane; m.p. 222° C.; (Lit. 16): m.p. 2190° C.), colorless crystals. Yield: 114.2 g (79.3%).

reactant | 9-methylcarbazole | 0.37 mol, 67.0 g | CN1C2=CC=CC=C2C=2C=CC=CC12 | C13H11N
reactant | AlCl3 | 0.79 mol, 105.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | benzoyl chloride | 0.74 mol, 104.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloroethane | 400 ml | ClC(C)Cl | C2H4Cl2
product | 3,6-Dibenzoyl-9-methylcarbazole | C(C1=CC=CC=C1)(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(C1=CC=CC=C1)=O)C | C27H19NO2
